US07863271B2
LiAlH4 (1 M solution in THF, 11 mL, 11.0 mmol) was added drop wise to solution of (S)-1-benzyl-3-ethylpiperazine-2-one (0.8 g, 3.66 mmol) in THF (30 mL) at 0° C. The reaction mixture was stirred at 65° C. for 17 h, then cooled 0° C. and quenched sequentially with H2O (0.7 mL), 10% NaOH (1 mL) and H2O (1.5 mL). Diethylether (100 mL) was added to the reaction mixture, and stirring was continued for 1.5 h. The solid was filtered off, the filtrate was concentrated and dried in vacuum to afford (S)-1-benzyl-3-ethylpiperazine (0.67 g, 87%) as an oily solid. 1H NMR and MS consistent.

reactant | LiAlH4 | 11.0 mmol, 1 M, 11 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-1-benzyl-3-ethylpiperazine-2-one | 3.66 mmol, 0.8 g | C(C1=CC=CC=C1)N1C([C@@H](NCC1)CC)=O | C13H18N2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-1-benzyl-3-ethylpiperazine | 0.67 g, 87% | C(C1=CC=CC=C1)N1C[C@@H](NCC1)CC | C13H20N2
